US07691882B2
4-(Hydroxy-(5-methyl-furan-2-yl)-methyl)-benzaldehyde
To a mixture of 4-bromobenzaldehyde dimethyl acetal (2.0 mL, 12 mmol) and diethyl ether (30 mL) was added dropwise n-butyl lithium (1.6 M n-hexane solution, 9.0 mL, 14 mmol) at −78° C., which was stirred for 20 minutes at the same temperature. 5-Methylfurfural (1.3 mL, 13 mmol) was added dropwise into the reaction mixture at that temperature, and stirred for 50 minutes at 0° C. Water and ethyl acetate were added to extract the reaction mixture. The organic layer was washed with saturated aqueous sodium chloride, and the solvent was evaporated under a reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:heptane=1:2) to obtain the title compound (320 mg, 12%).

reactant | 4-bromobenzaldehyde dimethyl acetal | 12 mmol, 2.0 mL | COC(C1=CC=C(C=C1)Br)OC | C9H11BrO2
reactant | diethyl ether | 30 mL | C(C)OCC | C4H10O
reactant | n-butyl lithium | 14 mmol, 1.6 M, 9.0 mL | C(CCC)[Li]
reactant | 5-Methylfurfural | 13 mmol, 1.3 mL | CC1=CC=C(C=O)O1 | C6H6O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 4-(Hydroxy-(5-methyl-furan-2-yl)-methyl)-benzaldehyde | 320 mg, 12% | OC(C1=CC=C(C=O)C=C1)C=1OC(=CC1)C | C13H12O3
